US05840764
A mixture of 3-ethoxy-4-(2-hydroxy-6-cyanophenyl)amino-3-cyclobutene-1,2-dione (0.250 g, 0.00097 mol) and (R)-2,2,1-trimethylpropylamine (0.2M in ethanol, 9.7 ml, 0.0019 mol) was stirred at room temperature for two days. TLC (2:1 ethyl acetate:hexane) indicates a loss of starting material. The reaction is evaporated on a rotary evaporator. The residue is taken up in ethyl acetate and extracted well with 0.25N HCl. The organic layer is washed once with distilled water, dried (Na2SO4), and evaporated to a solid. The solid is collected and washed with diethyl ether with several drops of ethyl acetate to give 3-[(R)-2,2,1-trimethylpropylamino]-4-(2-hydroxy-6-cyanophenyl)amino-3-cyclobutene-1,2-dione, 0.230 g (0.00073 mol, 76%)

reactant | 3-ethoxy-4-(2-hydroxy-6-cyanophenyl)amino-3-cyclobutene-1,2-dione | 0.00097 mol, 0.250 g | C(C)OC=1C(C(C1NC1=C(C=CC=C1C#N)O)=O)=O | C13H10N2O4
reactant | (R)-2,2,1-trimethylpropylamine | 0.0019 mol, 0.2M, 9.7 ml | CC([C@@H](C)N)(C)C | C6H15N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hexane | CCCCCC | C6H14
product | 3-[(R)-2,2,1-trimethylpropylamino]-4-(2-hydroxy-6-cyanophenyl)amino-3-cyclobutene-1,2-dione | CC([C@@H](C)NC=1C(C(C1NC1=C(C=CC=C1C#N)O)=O)=O)(C)C | C17H19N3O3
